US06380288B1
Synthesis of 3-hydroxy-N′-(1-methylethylidene)-2-naphthohydrazide
A four neck flask (3 liters) equipped with a thermometer, a reflux condenser and a stirrer was charged with 121.2 g (0.6 mol) of 3-hydroxy-2-naphthohydrazide, 1.14 g (0.006 mol) of p-toluenesulfonic acid and 2 liters of acetone and then heated under reflux for 5 hours. The reaction liquid was cooled down to 20° C. or lower, and then crystal was filtered off and dried under reduced pressure, whereby the intended compound (slightly yellow crystal) was obtained.

reactant | 3-hydroxy-2-naphthohydrazide | 0.6 mol, 121.2 g | OC=1C(=CC2=CC=CC=C2C1)C(=O)NN | C11H10N2O2
reactant | p-toluenesulfonic acid | 0.006 mol, 1.14 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetone | 2 liters | CC(=O)C | C3H6O
product | 3-hydroxy-N′-(1-methylethylidene)-2-naphthohydrazide | OC=1C(=CC2=CC=CC=C2C1)C(=O)NN=C(C)C | C14H14N2O2
